US05180419
Preparation of 6,8-Dihydro-α-isopropyl-α-methyl-6,8-dioxo-7H-thieno-[2,3-e]isoindole-7-acetonitrile
A mixture of 3-vinylthiophene (10.0 g, 0.0908 mol), α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1- acetonitrile (18.3 g, 0.0953 mol) and chloroform is stirred at 50° C. for 20 hours and at room temperature for one week. The mixture is concentrated in vacuo to give a yellow oil residue, which is column chromatographed on silica gel using methylene chloride as an eluent to afford a yellow oil. The oil is taken up in dioxane and treated with dichlorodicyano-p-benzoquinone, (17.2 g, 0.0760 mol), stirred for 21 hours at 100° C., cooled to 25° C. and filtered (the filter cake is washed once with benzene). The filtrate is concentrated in vacuo to give an orange semisolid residue. The residue is washed through neutral alumina with methylene chloride:hexanes (1:1) and flash chromatographed on silica gel using hexane:ethyl acetate (4:1) as an eluent to afford the title product as a pale yellow solid, 4.21 g (15.6%), mp 99°-107° C.

reactant | 3-vinylthiophene | 0.0908 mol, 10.0 g | C(=C)C1=CSC=C1 | C6H6S
reactant | α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1- acetonitrile | 0.0953 mol, 18.3 g | C(C)(C)C(C#N)(N1C(C=CC1=O)=O)C | C10H12N2O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | dichlorodicyano-p-benzoquinone | 0.0760 mol, 17.2 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6,8-Dihydro-α-isopropyl-α-methyl-6,8-dioxo-7H-thieno-[2,3-e]isoindole-7-acetonitrile | C(C)(C)C(C#N)(N1C(C2=CC=C3C(=C2C1=O)SC=C3)=O)C | C16H14N2O2S
